### PR TITLE
chore: clean after #45

### PR DESCRIPTION
**Pull request by YaelDillies**
#45 was merged somewhat hastily and this PR is all I didn't have time to comment upon.

Some extra comments:
* Edison's PR wasn't using the `↓` notation for restriction because he was in a universe-polymorphic file and the `↓` notation was universe-monomorphic. I could either make the latter file universe-monomorphic, or the notation universe-polymorphic. I did the latter because it was not exactly trivial and since it might soon be included in mathlib.
* I've removed `import Mathlib` from a bunch of files because, once again, it was harder than expected and since it might soon be included in mathlib.
* Some declarations were in the `tateCohomology` namespace, some in `TateCohomology` instead. I've stuck to the former.

- [ ] depends on: #41

### CODE REVIEW

**Comment by Whysoserioushah** [comment]
we should make `TateCohomology` the namespace

File: ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean [hunk 1]
```diff
@@ -260,56 +116,55 @@ lemma isZero_of_trivialTateCohomology [Fintype G] {M : Rep R G}
...
 
 instance [Subsingleton G] {M : Rep R G} : M.TrivialCohomology where
-  isZero _ _ := isZero_groupCohomology_succ_of_subsingleton _ _
+  isZero H n := by
+    apply isZero_groupCohomology_succ_of_subsingleton
 
 instance [Subsingleton G] {M : Rep R G} : M.TrivialHomology where
-  isZero _ _ := isZero_groupHomology_succ_of_subsingleton _ _
+  isZero H n := by
+    letI : Subsingleton H := Function.Injective.subsingleton H.subtype_injective
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/05_TrivialCohomology.lean:154]:
```suggestion
```
